US09120819B2
Stage A: Methyl 5-[(1-{[3-(acetyloxy)benzoyl]amino}-2-methylindolizin-3-yl)-carbonyl]-2-aminobenzoate
0.95 ml (6.80 mmol) of triethylamine and 1.50 g (3.40 mmol) of BOP are added, at ambient temperature, to 0.61 g (3.40 mmol) of 3-acetoxybenzoic acid in suspension in 20 ml of N,N-dimethylformamide. After 15 minutes, 1.0 g (3.09 mmol) of methyl 2-amino-5-[(1-amino-2-methylindolizin-3-yl)carbonyl]benzoate (described in Patent Application WO2003084956) in 10 ml of N,N-dimethylformamide is added. The reaction medium is stirred for 16 hours under argon and then diluted with ethyl acetate and washed with a saturated aqueous solution of sodium bicarbonate. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. The solid obtained is taken up in acetone and then filtered and dried. 0.86 g (57%) of a greenish yellow powder is obtained.

reactant | triethylamine | 6.80 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
reactant | BOP | 3.40 mmol, 1.50 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-acetoxybenzoic acid | 3.40 mmol, 0.61 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | methyl 2-amino-5-[(1-amino-2-methylindolizin-3-yl)carbonyl]benzoate | 3.09 mmol, 1.0 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)N)C | C18H17N3O3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 5-[(1-{[3-(acetyloxy)benzoyl]amino}-2-methylindolizin-3-yl)-carbonyl]-2-aminobenzoate | 0.86 g, 57% | C(C)(=O)OC=1C=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(=O)C=2C=CC(=C(C(=O)OC)C2)N)C)C=CC1 | C27H23N3O6
